US20010041740A1
First, 4.3 g (11 mmol) of N-(2,6-dichloro-4-trifluoromethylphenyl)-2,2,3,3,3-pentafluoropropionamide was dissolved in 22 ml of dichloromethane, to which 1.8 ml of carbon tetrachloride and 4.5 g (17 mmol) of triphenylphosphine were added at room temperature, and the mixture was stirred for 18 hours. The reaction mixture was concentrated under reduced pressure, followed by addition of hexane, and undissolved matter was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 3.8 g of N-(2,6-dichloro-4-trifluoromethylphenyl)-2,2,3,3,3-pentafluoropropionimidoyl chloride.

reactant | N-(2,6-dichloro-4-trifluoromethylphenyl)-2,2,3,3,3-pentafluoropropionamide | 11 mmol, 4.3 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NC(C(C(F)(F)F)(F)F)=O | C10H3Cl2F8NO
reactant | triphenylphosphine | 17 mmol, 4.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dichloromethane | 22 ml | ClCCl | CH2Cl2
solvent | carbon tetrachloride | 1.8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-(2,6-dichloro-4-trifluoromethylphenyl)-2,2,3,3,3-pentafluoropropionimidoyl chloride | 3.8 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N=C(C(C(F)(F)F)(F)F)Cl | C10H2Cl3F8N
